US07585885B2
N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-methyl-butoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride
Add 4M hydrogen chloride in dioxane (8 mL) to (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-methyl-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.079 g, 0.15 mmol). Stir 2 hours and evaporate to give the title compound as a foam (0.089 g, 100%).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-methyl-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 0.079 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCCC(C)C)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C28H42F2N2O5
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-methyl-butoxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride | 0.089 g, 100% | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](C2)OCCC(C)C)O)NC(C)=O)C=C(C1)F | InChI=1S/C20H30F2N2O3.ClH/c1-12(2)4-5-27-17-10-18(23-11-17)20(26)19(24-13(3)25)8-14-6-15(21)9-16(22)7-14;/h6-7,9,12,17-20,23,26H,4-5,8,10-11H2,1-3H3,(H,24,25);1H/t17-,18-,19+,20-;/m1./s1
